US07786307B2
N-[4(S)-Amino-6-(2,2-dimethylpropionylamino)-5(S)-hydroxy-2(S)-isopropylhexyl]-2-(3-methoxypropoxy)benzamide hydrochloride
The solution of 0.030 g of tert-butyl (1(S)-[2-(2,2-dimethylpropionylamino)-1(S)-hydroxyethyl]-3(S)-{[2-(3-methoxypropoxy)benzoylamino]methyl}-4-methylpentyl)carbamate in 1 ml of 4M HCl (in dioxane) is stirred at 0° C. to 20° C. over 2 hours, subsequently concentrated by evaporation to dryness—the residue is dissolved in 1 ml of tert-butanol, frozen and lyophilized under high vacuum. The title compound is obtained as a white powder. Rf=0.20 (200:20:1 dichloromethane-methanol-25% conc. ammonia); Rt=3.55 (gradient I).

reactant | tert-butyl (1(S)-[2-(2,2-dimethylpropionylamino)-1(S)-hydroxyethyl]-3(S)-{[2-(3-methoxypropoxy)benzoylamino]methyl}-4-methylpentyl)carbamate | 0.030 g | CC(C(=O)NC[C@H](O)[C@H](C[C@@H](C(C)C)CNC(C1=C(C=CC=C1)OCCCOC)=O)NC(OC(C)(C)C)=O)(C)C | C30H51N3O7
reactant | HCl | 4M, 1 ml | Cl | ClH
product | N-[4(S)-Amino-6-(2,2-dimethylpropionylamino)-5(S)-hydroxy-2(S)-isopropylhexyl]-2-(3-methoxypropoxy)benzamide hydrochloride | Cl.N[C@@H](C[C@H](CNC(C1=C(C=CC=C1)OCCCOC)=O)C(C)C)[C@H](CNC(C(C)(C)C)=O)O | InChI=1S/C25H43N3O5.ClH/c1-17(2)18(14-20(26)21(29)16-28-24(31)25(3,4)5)15-27-23(30)19-10-7-8-11-22(19)33-13-9-12-32-6;/h7-8,10-11,17-18,20-21,29H,9,12-16,26H2,1-6H3,(H,27,30)(H,28,31);1H/t18-,20+,21+;/m1./s1
